US05145865
(1) Methyl 4-[1-(4-tert-butoxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate
tert-Butanol (1.58 g), dicyclohexylcarbodiimide (4.04 g) and cuprous chloride (35 mg) are suspended in methylene chloride (5 ml) and the mixture is stirred at room temperature under shading for 4 days. Thereto is added a suspension of methyl 4-[1-(4-hydroxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate (1.52 g) in methylene chloride (30 ml) and the mixture is further stirred for 14 hours. The reaction mixture is concentrated under reduced pressure and thereto is added chloroform. The insoluble material is removed by filtration and the filtrate is subjected to silica gel column chromatography and eluted with chloroform to give the desired product (0.93 g), m.p. 126°-127.5° C.

reactant | tert-Butanol | 1.58 g | C(C)(C)(C)O | C4H10O
reactant | dicyclohexylcarbodiimide | 4.04 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methyl 4-[1-(4-hydroxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 1.52 g | OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C19H19NO5
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-[1-(4-tert-butoxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 0.93 g | C(C)(C)(C)OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C23H27NO5
